US07084231B2
Synthesis of 4,4′-dibromostilbene [M-24]
47 g (0.188 mol) of 4-bromobenzylbromide and 37.5 g (0.224 mol) of check triethylphosphite were put into a 500 ml 3-neck round-bottom flask equipped with a stirrer, a thermometer and a reflux condenser under an argon atmosphere, and the resulting mixture was stirred at 150° C. for 4 hours. The temperature was dropped to room temperature, and 250 ml of anhydrous DMF was added. After an ice bath was installed, 11.28 g (0.282 mol) of sodium hydride (60%) was slowly added and the resultant was stirred for 30 minutes. After 33.7 g (0.182 mol) of 4-bromobenzaldehyde was slowly added, ice bath was removed, and then the reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into cold water to give solid. This solid was filtered, thoroughly washed with water and methanol, dried and then recrystallized, to obtain white crystal, which was sufficiently dried in a vacuum oven at 40° C. to give 40 g (yield: 63%) of the desired product, and its melting point was 212° C.–213° C.

reactant | 4-bromobenzylbromide | 0.188 mol, 47 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
reactant | sodium hydride | 0.282 mol, 11.28 g | [H-].[Na+]
reactant | 4-bromobenzaldehyde | 0.182 mol, 33.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 4,4′-dibromostilbene | 40 g, yield: 63% | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)Br | C14H10Br2
